*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1111SQ-27N
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.01GHz-4GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1111SQ-27N_freq port1 port2 PARAMS: Cpar=0.0816pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=12
+ R2=0.313
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=1678
+ L_EL=1.81
+ L_F0=312E6
+ PkZ=0
.ends 1111SQ-27N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1111SQ-30N
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.01GHz-4GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1111SQ-30N_freq port1 port2 PARAMS: Cpar=0.076pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=10.2
+ R2=0.345
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=1830
+ L_EL=1.81
+ L_F0=312E6
+ PkZ=0
.ends 1111SQ-30N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1111SQ-33N
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.01GHz-3.2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1111SQ-33N_freq port1 port2 PARAMS: Cpar=0.0596pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=33
+ R2=0.38
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=2020
+ L_EL=1.81
+ L_F0=312E6
+ PkZ=0
.ends 1111SQ-33N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1111SQ-36N
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.01GHz-3.3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1111SQ-36N_freq port1 port2 PARAMS: Cpar=0.0596pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=106.8
+ R2=0.345
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=2200
+ L_EL=1.81
+ L_F0=312E6
+ PkZ=0
.ends 1111SQ-36N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1111SQ-39N
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.01GHz-3.3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1111SQ-39N_freq port1 port2 PARAMS: Cpar=0.0666pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=656.6
+ R2=0.295
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=2380
+ L_EL=1.81
+ L_F0=312E6
+ PkZ=0
.ends 1111SQ-39N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1111SQ-43N
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.01GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1111SQ-43N_freq port1 port2 PARAMS: Cpar=0.0552pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=311.6
+ R2=0.39
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=2630
+ L_EL=1.81
+ L_F0=312E6
+ PkZ=0
.ends 1111SQ-43N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1111SQ-47N
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.01GHz-2.8GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1111SQ-47N_freq port1 port2 PARAMS: Cpar=0.0665pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=460.6
+ R2=0.345
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=2860
+ L_EL=1.81
+ L_F0=312E6
+ PkZ=0
.ends 1111SQ-47N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Aircore Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model3B Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ L_Z0=1
+ L_EL=1
+ L_F0=1
C1 N002 Lin {C}
R1 Lout N002 {R1}
T1 Lin 0 N003 0 TD={(L_EL/360)/L_F0} Z0={L_Z0}
R2 Lout N003 {R2}
.ends Model3B








.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
