*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 2929SQ-331
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 10MHz-650MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 2929SQ-331_freq port1 port2 PARAMS: Cpar=0.0365pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=10009
+ R2=0.561
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=2035
+ L_EL=81
+ L_F0=1390E6
+ PkZ=0
.ends 2929SQ-331_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 2929SQ-361
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 10MHz-600MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 2929SQ-361_freq port1 port2 PARAMS: Cpar=0.0355pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=9697
+ R2=0.607
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=2220
+ L_EL=81
+ L_F0=1390E6
+ PkZ=0
.ends 2929SQ-361_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 2929SQ-391
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 10MHz-550MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 2929SQ-391_freq port1 port2 PARAMS: Cpar=0.036pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=9594
+ R2=0.659
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=2405
+ L_EL=81
+ L_F0=1390E6
+ PkZ=0
.ends 2929SQ-391_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 2929SQ-431
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 10MHz-500MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 2929SQ-431_freq port1 port2 PARAMS: Cpar=0.0365pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=3647
+ R2=0.741
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=2650
+ L_EL=81
+ L_F0=1390E6
+ PkZ=0
.ends 2929SQ-431_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 2929SQ-501
* Inductance = uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 10MHz-400MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 2929SQ-501_freq port1 port2 PARAMS: Cpar=0.0385pF Ind=0.00
X1 port1 port2 Model3B PARAMS:
+ R1=2847
+ R2=1.031
+ C= {Cpar}
+ K1=0
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=3090
+ L_EL=81
+ L_F0=1390E6
+ PkZ=0
.ends 2929SQ-501_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Aircore Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model3B Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ L_Z0=1
+ L_EL=1
+ L_F0=1
C1 N002 Lin {C}
R1 Lout N002 {R1}
T1 Lin 0 N003 0 TD={(L_EL/360)/L_F0} Z0={L_Z0}
R2 Lout N003 {R2}
.ends Model3B








.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
